US09375000B2
Ethyl 2-chloro-6-(trifluoromethyl)pyridin-5-carboxylate (0.95 g), 3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidine (1.4 g) and potassium carbonate (0.7 g) were added to N,N-dimethylformamide (30 ml), and heated for 5 hours at 100° C. After cooling, the reaction mixture was poured in ice water and extracted with ethyl acetate. The organic layer was dried over magnesium sulfate, the solvent was distilled off under reduced pressure, and purified by silica gel column chromatography to obtain ethyl 6-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)nicotinate (1.7 g).

reactant | Ethyl 2-chloro-6-(trifluoromethyl)pyridin-5-carboxylate | 0.95 g | ClC1=NC(=C(C=C1)C(=O)OCC)C(F)(F)F | C9H7ClF3NO2
reactant | 3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidine | 1.4 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CNCC1)C(F)(F)F)(F)F | C13H10F9N
reactant | potassium carbonate | 0.7 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
product | ethyl 6-{3-[3,5-bis-(trifluoromethyl)phenyl]-3-(trifluoromethyl)pyrrolidin-1-yl}-2-(trifluoromethyl)nicotinate | 1.7 g | FC(C=1C=C(C=C(C1)C(F)(F)F)C1(CN(CC1)C1=NC(=C(C(=O)OCC)C=C1)C(F)(F)F)C(F)(F)F)(F)F | C22H16F12N2O2
